US06703392B2
2-[1-(3,4-dimethoxy-benzyl)-6-methoxy-7-(4-morpholine-carbonyloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide:
prepared by reaction of 2-[1-(3,4-dimethoxy-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide with 4-morpholinecarbonyl chloride

reactant | 2-[1-(3,4-dimethoxy-benzyl)-7-hydroxy-6-methoxy-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)O)OC)CC(=O)NC2CCC3=CC=CC=C23)C=CC1OC | C30H34N2O5
reactant | 4-morpholinecarbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 2-[1-(3,4-dimethoxy-benzyl)-6-methoxy-7-(4-morpholine-carbonyloxy)-3,4-dihydro-1H-isoquinolin-2-yl]-N-(indan-1-yl)-acetamide | COC=1C=C(CC2N(CCC3=CC(=C(C=C23)OC(=O)N2CCOCC2)OC)CC(=O)NC2CCC3=CC=CC=C23)C=CC1OC | C35H41N3O7
